US04786644
A solution of 9.66 g of N-(2-benzothiazolyl)-1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxamide in 250 ml of toluene was treated with 39.0 g of activated manganese dioxide and stirred for four hours at room temperature. The slurry was filtered and evaporated. The residue was purified by means of high pressure liquid chromatography (silica gel: dichloromethane as the eluent) followed by recrystallization from dichloromethane to yield 4.6 g (48%) of N-(2-benzothiazolyl)-1,4-dihydro-4-oxo-1-phenyl-3-quinolinecarboxamide, m.p. 295°-297° C.

reactant | N-(2-benzothiazolyl)-1,2-dihydro-4-hydroxy-1-phenyl-3-quinolinecarboxamide | 9.66 g | S1C(=NC2=C1C=CC=C2)NC(=O)C=2CN(C1=CC=CC=C1C2O)C2=CC=CC=C2 | C23H17N3O2S
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 39.0 g | [O-2].[O-2].[Mn+4]
product | N-(2-benzothiazolyl)-1,4-dihydro-4-oxo-1-phenyl-3-quinolinecarboxamide | 4.6 g, 48% | S1C(=NC2=C1C=CC=C2)NC(=O)C2=CN(C1=CC=CC=C1C2=O)C2=CC=CC=C2 | C23H15N3O2S
